US06949551B2
Step 2: 3-acetyl-2,5-bis-(3,3-dichloroprop-2-enyloxy)-1-chlorobenzene
2.9 g of 3-acetyl-1-chloro-2,5-dihydroxybenzene were dissolved in 29 ml of acetone, and 3.39 g of 1,1,3-trichloropropene, 4.3 g of potassium carbonate and 0.7 g of sodium iodide were added. The mixture was heated under reflux for 5 hours (monitored by TLC). The reaction mixture was then allowed to cool and concentrated using a rotary evaporator, and the resulting crude product was subjected to chromatographic purification. Yield: 6.1 g (99%)

reactant | 3-acetyl-1-chloro-2,5-dihydroxybenzene | 2.9 g | C(C)(=O)C=1C(=C(C=C(C1)O)Cl)O | C8H7ClO3
reactant | 1,1,3-trichloropropene | 3.39 g | ClC(=CCCl)Cl | C3H3Cl3
reactant | potassium carbonate | 4.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.7 g | [I-].[Na+]
solvent | acetone | 29 ml | CC(=O)C | C3H6O
product | 3-acetyl-2,5-bis-(3,3-dichloroprop-2-enyloxy)-1-chlorobenzene | C(C)(=O)C=1C(=C(C=C(C1)OCC=C(Cl)Cl)Cl)OCC=C(Cl)Cl | C14H11Cl5O3
